US03984398
N-carbethoxy acetyl N-methyl o-nitro aniline
75 g of N-methyl o-nitro aniline and 70 g. of monoethyl malonate (obtained according to M. Freund, Ber. 17, 780, 1884) are dissolved in 550 cc. of benzene, the solution is agitated and 106 g. of phosphorus pentachloride are added, while maintaining the temperature at 20°-23° C.; this is agitated for three hours at room temperature, then heated for 1 hour at 70° C.; a yellow precipitate forms, which dissolves again, giving an orange solution; a water-ice mixture is added, while agitating, to obtain a volume of 1,500 cc., keeping the temperature at 30° C.; the benzene phase is decanted off, washed with water, then with a saturated aqueous solution of sodium bicarbonate and finally with water, dried over sodium sulfate and evaporated under reduced pressure; the residue is purified by recrystallisation in the xylol-petroleum ether mixture (2.5-1). The compound melts at 54°-55° C.

reactant | N-methyl o-nitro aniline | 75 g | CNC1=C(C=CC=C1)[N+](=O)[O-] | C7H8N2O2
reactant | monoethyl malonate | C(CC(=O)[O-])(=O)OCC
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-carbethoxy acetyl N-methyl o-nitro aniline | C(=O)(OCC)CC(=O)N(C1=C(C=CC=C1)[N+](=O)[O-])C | C12H14N2O5
